US04212734
Propanesultone (61 g; 0.5 mole) was added to a stirred solution of n-butylamine (36.5 g; 0.5 mole) in methanol (200 ml) in 10 min. The reaction temperature was kept at 50°-55° by cooling. After stirring 40 min, a white solid began to separate. After stirring overnight filtration yielded 3-butylaminopropylsulfonic acid 94 g (96%).

reactant | Propanesultone | 0.5 mole, 61 g | C1CCOS1(=O)=O | C3H6O3S
reactant | n-butylamine | 0.5 mole, 36.5 g | C(CCC)N | C4H11N
solvent | methanol | 200 ml | CO | CH4O
product | 3-butylaminopropylsulfonic acid | 94 g, 96% | C(CCC)NCCCS(=O)(=O)O | C7H17NO3S
